US09102591B2
A solution of 2-(6-acetylpyridin-3-yl)-3-cyclopropylpropanenitrile (520 mg, 2.43 mmol) in THF (6 mL) was added MeMgBr (0.89 mL, 2.67 mmol, 3M in Et2O) at 0° C. under N2 and stirred at room temperature for 2 h. The solution was quenched with water and extracted with EtOAc (3×20 mL). The organic layer was dried over Na2SO4 and concentrated. The crude product was purified by column chromatography on silica gel (EtOAc: Petroleum ether=1:10) to give 3-cyclopropyl-2-(6-(2-hydroxypropan-2-yl)pyridin-3-yl)propanenitrile (200 mg, yield: 35.6%). 1H NMR (CDCl3 varian 400): δ8.41 (d, J=2.4 Hz, 1H), 7.67 (dd, J=8.0 Hz, 2.4 Hz, 1H), 7.36 (dd, J=8.4 Hz, 0.8 Hz,

reactant | 2-(6-acetylpyridin-3-yl)-3-cyclopropylpropanenitrile | 2.43 mmol, 520 mg | C(C)(=O)C1=CC=C(C=N1)C(C#N)CC1CC1 | C13H14N2O
reactant | MeMgBr | 2.67 mmol, 3M, 0.89 mL | C[Mg+].[Br-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-cyclopropyl-2-(6-(2-hydroxypropan-2-yl)pyridin-3-yl)propanenitrile | 200 mg, yield: 35.6% | C1(CC1)CC(C#N)C=1C=NC(=CC1)C(C)(C)O | C14H18N2O
